US05041641
To an ice-cooled suspension of 0.76 g of lithium aluminum hydride in 15 ml of dry ether, was added 6.88 g of diphenyltin dichloride dissolved in 20 ml of dry ether. After stirring for 30 minutes, 20 ml of water was added to the resulted reaction mixture, and the ether layer was washed with icy water and dried over calcium chloride. The subsequent concentration under reduced pressure gave diphenyltin hydride.

reactant | lithium aluminum hydride | 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diphenyltin dichloride | 6.88 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(Cl)Cl
reactant | water | 20 ml | O | H2O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | diphenyltin hydride | C1(=CC=CC=C1)[SnH2]C1=CC=CC=C1 | InChI=1S/2C6H5.Sn.2H/c2*1-2-4-6-5-3-1;;;/h2*1-5H;;;
